US08791123B2
5-((R)-2-(3-fluorophenyl)pyrrolidin-1-yl)-N-((trans)-4-hydroxycyclohexyl)pyrazolo[1,5-a]pyrimidine-3-carboxamide
Prepared by the method as described in Example 1 using (R)-5-(2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (Preparation E) and (trans)-4-aminocyclohexanol to yield the title compound as a white solid (31 mg, 62% yield). MS (apci) m/z=424.1 (M+H).

reactant | (R)-5-(2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC=1C=C(C=CC1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O | C17H15FN4O2
reactant | (trans)-4-aminocyclohexanol | N[C@@H]1CC[C@H](CC1)O | C6H13NO
product | 5-((R)-2-(3-fluorophenyl)pyrrolidin-1-yl)-N-((trans)-4-hydroxycyclohexyl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 31 mg, 62% yield | FC=1C=C(C=CC1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)N[C@@H]2CC[C@H](CC2)O | C23H26FN5O2
